US05644053
(c) (E)-(2S,3S,5R)-3-Methyl-3-[2-oxo-1-(2,2,2-trifluoro-ethyl)-pyrrolidin-3-ylidenemethyl]-4,4,7-trioxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylic acid
192 mg (0.34 mmol) of benzhydryl (E)-(2S,3S,5R)-3-methyl-3-[2-oxo-1-(2,2,2-trifluoro-ethyl)-pyrrolidin-3-ylidenemethyl]-4,4,7-trioxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate were deprotected analogously to Example 11. Yield: 78 mg (59%) of colorless crystal powder MS: (M+NH4)+ 414.4 IR (KBr): 2800(br), 1790, 1729, 1674, 1646, 1321, 1166 cm-1

reactant | benzhydryl (E)-(2S,3S,5R)-3-methyl-3-[2-oxo-1-(2,2,2-trifluoro-ethyl)-pyrrolidin-3-ylidenemethyl]-4,4,7-trioxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | 0.34 mmol, 192 mg | C[C@@]1([C@@H](N2C(C[C@H]2S1(=O)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)/C=C\1/C(N(CC1)CC(F)(F)F)=O | C27H25F3N2O6S
reactant | KBr | [K+].[Br-]
product | (E)-(2S,3S,5R)-3-Methyl-3-[2-oxo-1-(2,2,2-trifluoro-ethyl)-pyrrolidin-3-ylidenemethyl]-4,4,7-trioxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylic acid | C[C@@]1([C@@H](N2C(C[C@H]2S1(=O)=O)=O)C(=O)O)/C=C\1/C(N(CC1)CC(F)(F)F)=O | C14H15F3N2O6S
